US04710573
3-(1-Methyl-4-piperidinyl)-1-[3-(trifluoromethyl)phenyl]-1H-indazole
To a stirred suspension of 4.9 g of a 50% oil dispersion of sodium hydride in 60 ml of dimethylformamide was added dropwise a solution a 10.0 g of 3-(1-methyl-4-piperidinyl)-1H-indazole in 80 ml of hot dimethylformamide. The reaction mixture was stirred for 1 hr and then 15.2 g of 3-fluorobenzotrifluoride was added. The reaction was heated at 90° C. for 22 hrs, cooled and poured into water. The aqueous mixture was extracted with ether. The ethereal extracts were dried over anhydrous magnesium sulfate and concentrated to give an oil. The oil was flash chromatographed (silica gel, diethylamine-ethyl acetate (1:9)). Evaporation of the appropriate fractions followed by recrystallization twice from hexane yielded 2.96 g (18%) of product, mp 103°-105° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 10.0 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
reactant | 3-fluorobenzotrifluoride | 15.2 g | FC=1C=C(C=CC1)C(F)(F)F | C7H4F4
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 3-(1-Methyl-4-piperidinyl)-1-[3-(trifluoromethyl)phenyl]-1H-indazole | 2.96 g, 18% | CN1CCC(CC1)C1=NN(C2=CC=CC=C12)C1=CC(=CC=C1)C(F)(F)F | C20H20F3N3
